US07429605B2
5-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-2-(3-trifluoromethyl-phenyl)-pyridine
A solution of 100 mg (0.43 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 18 mg (0.45 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 117 mg (0.43 mmol) 5-Chloromethyl-2-(3-trifluoromethyl-phenyl)-pyridine were added and stirred continued at r.t. over night. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water, methanol/water 1:1 and diisopropylether. The residue was dried at 40° C. to give 160 mg (79%) of the title compound as white powder.

reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.43 mmol, 100 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | sodium hydride | 0.45 mmol, 18 mg | [H-].[Na+]
reactant | 5-Chloromethyl-2-(3-trifluoromethyl-phenyl)-pyridine | 0.43 mmol, 117 mg | ClCC=1C=CC(=NC1)C1=CC(=CC=C1)C(F)(F)F | C13H9ClF3N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 5-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-2-(3-trifluoromethyl-phenyl)-pyridine | 160 mg, 79% | CC=1C=C(OCC=2C=CC(=NC2)C2=CC(=CC=C2)C(F)(F)F)C=CC1CCCCN1N=NC=C1 | C26H25F3N4O
